US06007819
To a THF solution of N-(CBZ)-β-alanine and N-hydroxysuccinimide, add DCC. The reaction is mixed overnight at room temperature. The crude reaction mixture is filtered through a sintered glass funnel into a round bottom flask to remove the DCU that is formed. The activated ester should remain in solution. After concentrating and redissolving in solvent, ethanolamine or an alcohol protected derivative can be added as a solution to the solution containing the activated ester. Triethylamine can also be added. Workup of the reaction and purification results in formation of N-carbobenzoxy-β-alanyl-ethanolamine. The free alcohol can be sulfated by a variety of methods to result in formation of N-carbobenzoxy-β-alanyl-ethanolamine sulfate.

reactant | N-(CBZ)-β-alanine | C(=O)(OCC1=CC=CC=C1)NCCC(=O)O | C11H13NO4
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | C1CCOC1 | C4H8O
product | N-carbobenzoxy-β-alanyl-ethanolamine | C(=O)(OCC1=CC=CC=C1)NCCC(=O)C(O)CN | C13H18N2O4
